US08217043B2
e) {[6-Chloro-4-hydroxy-2-oxo-1-(4-chloro-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 6-chloro-4-hydroxy-2-oxo-1-(4-chloro-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester (1.0 eq.) and sodium glycinate (15 eq.). ESI (m/z): 410 (M+H)+.

reactant | 6-chloro-4-hydroxy-2-oxo-1-(4-chloro-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 1.0 eq. | COC(=O)C1=C(C=2N(N(C1=O)CC1=CC=C(C=C1)Cl)C=C(C2)Cl)O | C16H12Cl2N2O4
reactant | sodium glycinate | 15 eq. | NCC(=O)[O-].[Na+]
product | {[6-Chloro-4-hydroxy-2-oxo-1-(4-chloro-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-acetic acid | ClC=1C=C2N(N(C(C(=C2O)C(=O)NCC(=O)O)=O)CC2=CC=C(C=C2)Cl)C1 | C17H13Cl2N3O5
